US07550482B2
7,7-Dimethyl-7,8-dihydro-1H,6H-quinoline-2,5-dione
In analogy to (Pettit, G. R.; Fleming, W. C.; Paull, K. D. J. Org. Chem. 1968, 33 (3) 1089-1092.), 3-amino-5,5-dimethylcyclohex-2-en-1-one was reacted with ethyl propio-late to give the title compound as a light brown solid in 78.5% yield.

reactant | 3-amino-5,5-dimethylcyclohex-2-en-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | ethyl propio-late | C(C#C)(=O)OCC | C5H6O2
product | 7,7-Dimethyl-7,8-dihydro-1H,6H-quinoline-2,5-dione | 78.5% yield | CC1(CC(C=2C=CC(NC2C1)=O)=O)C | C11H13NO2
